US04318846
Ex. 1. Preparation of 2-chloro-4-methoxyresorcinol
Into a reaction flask was introduced 2 g of 2-chloro-3-hydroxy-4-methoxybenzaldehyde in 50 ml methylene dichloride with an excess of m-chloroperbenzoic acid and the reaction refluxed for 2.5 hrs. After removal of the solvent, the solid residue was dissolved in 10 ml methanol and stirred with approximately 10 weight percent aqueous sodium hydroxide (10 ml) for 1 hr. After acidification to pH 1 with dilute HCl, the solution was filtered and the precipitate washed with 10 ml of cold water. The combined filtrate and wash was extracted with ether, the ether washed with 5% NaHCO3 (2×10 ml) and saturated NaCl solution (1×10 ml) and then evaporated to leave a solid which was crystallized from ethyl acetate-hexane mixture to provide the product as white silky needles (1.35 g). mp 69°-70°.

reactant | 2-chloro-3-hydroxy-4-methoxybenzaldehyde | 2 g | ClC1=C(C=O)C=CC(=C1O)OC | C8H7ClO3
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene dichloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-methoxyresorcinol | 1.35 g | ClC1=C(O)C=CC(=C1O)OC | C7H7ClO3
